US07700655B2
(1) 1-(3-Nitrophenyl)-5-phenyl-3-(trifluoromethyl)pyrazole
A mixture of 4,4,4-trifluoro-1-phenyl-1,3-butanedione (432.3 mg, 2 mmol), 3-nitrophenylhydrazine hydrochloride (379.2 mg, 2 mmol), concentrated hydrochloric acid (0.2 mL) and ethanol (8 mL) was reflued for 2 hours. After the reaction mixture was cooled to room temperature, it was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and brine, and dried over anhydrous sodium sulfate. The residue obtained by evaporation under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=4:1→3:1) to give the title compound (631.5 mg, 94.7%) as a light yellowish white powder.

reactant | 4,4,4-trifluoro-1-phenyl-1,3-butanedione | 2 mmol, 432.3 mg | FC(C(CC(=O)C1=CC=CC=C1)=O)(F)F | C10H7F3O2
reactant | 3-nitrophenylhydrazine hydrochloride | 2 mmol, 379.2 mg | Cl.[N+](=O)([O-])C=1C=C(C=CC1)NN
reactant | hydrochloric acid | 0.2 mL | Cl | ClH
reactant | ethanol | 8 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(3-Nitrophenyl)-5-phenyl-3-(trifluoromethyl)pyrazole | 631.5 mg, 94.7% | [N+](=O)([O-])C=1C=C(C=CC1)N1N=C(C=C1C1=CC=CC=C1)C(F)(F)F | C16H10F3N3O2
